US04677111
(1) Synthesis of 4-(5-bromo-2-pyrimidinyl)-3-nitroaniline
1.94 g of 5-bromo-2-chloropyrimidine and 1.93 g of sodium 4-amino-2-nitrophenolate were dissolved in 20 ml of dimethylformamide, and reacted in the atmosphere of nitrogen gas at 150° C. for 5 hours. After the completion of the reaction, the reaction product was poured into water, and extracted with ethyl acetate. The extract layer was washed with brine and dried over anhydrous sodium sulfate, and purified by silica gel column chromatography, whereby 1.35 g of 4-(5-bromo-2-pyrimidinyl)-3-nitroaniline having a melting point of 165° to 167° C. was obtained.

reactant | 5-bromo-2-chloropyrimidine | 1.94 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | sodium 4-amino-2-nitrophenolate | 1.93 g | NC1=CC(=C(C=C1)[O-])[N+](=O)[O-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(5-bromo-2-pyrimidinyl)-3-nitroaniline | BrC=1C=NC(=NC1)C1=C(C=C(N)C=C1)[N+](=O)[O-] | C10H7BrN4O2
